US04399134
Anhydrous piperidine (8 g) was added to 5.3 g of 8-chloro-9-fluoro-5-methyl-2-acetyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine. 70 ml of hexamethylphosphoric triamide was added thereto and the mixture was allowed to react at 140° C. on an oil bath for 6 hours. After completion of the reaction any excess solvent and piperidine were removed by distillation under reduced pressure and 100 ml of ethyl acetate was added to the residue to precipitate light yellow crystals. The crystals thus obtained were separated by filtration and 300 ml of water was added thereto followed by adjusting the resulting solution to a pH of 2 with 1 N hydrochloric acid. The solution was heated and filtered. The filtrate was concentrated to 50 ml and rendered alkaline with a 10% aqueous sodium hydroxide solution to obtain 3.0 g of 8-(1-piperidyl)-9-fluoro-5-methyl-2-acetyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine.

reactant | piperidine | 8 g | N1CCCCC1 | C5H11N
reactant | 8-chloro-9-fluoro-5-methyl-2-acetyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine | 5.3 g | ClC1=C(C=C2C(C(=CN3C(CCC1=C23)C)C(C)=O)=O)F | C15H13ClFNO2
solvent | hexamethylphosphoric triamide | 70 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 8-(1-piperidyl)-9-fluoro-5-methyl-2-acetyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine | 3.0 g | N1(CCCCC1)C1=C(C=C2C(C(=CN3C(CCC1=C23)C)C(C)=O)=O)F | C20H23FN2O2
